US04654343
N-(Cyclopropylmethyl)-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide
A mixture of 3.0 g of N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide, 0.6 g of sodium hydride (50% in oil) and 250 ml of dimethylformamide was stirred under argon for 1 hour, then 1.2 ml of (bromomethyl)cyclopropane was added. This mixture was stirred overnight, then poured into 200 ml of water and extracted with 150 ml portions of dichloromethane. The extracts were combined, dried and evaporated. The residue was chromatographed on a silica gel column, eluting with dichloromethane:methanol (95:5). The active fractions were combined, evaporated and the solid recrystallized from ethyl acetate-hexane, giving 1.5 g of the desired product as pink crystals, mp 118°-121° C.

reactant | N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide | 3.0 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(C)=O | C14H13N5O
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | (bromomethyl)cyclopropane | 1.2 ml | BrCC1CC1 | C4H7Br
solvent | water | 200 ml | O | H2O
product | N-(Cyclopropylmethyl)-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide | 1.5 g | C1(CC1)CN(C(C)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C18H19N5O
